US07491748B2
2-(naphthalen-2-ylmethyl)-4-phenoxymethylbenzylalcohol
To the suspension of zinc (710 mg) in tetrahydrofuran (2 ml) was added dibromoethane (1 drop) under an atmosphere of argon. The mixture was heated and then added trimethylsilyl chloride (1 drop). The reaction mixture was cooled to 0° C. and added dropwise a solution of 2-bromomethylnaphthalene (1.20 g) in tetrahydrofuran (3 ml). The mixture was stirred at room temperature for 1.5 hour to give the zinc reagent. To a solution of [bis(benzylidene)acetone]palladium (156 mg) and diphenylphosphinoferrocene (151 mg) in tetrahydrofuran (2 ml) was added the compound prepared in Reference Example 17 (1.00 g) in tetrahydrofuran (3 ml) under an atmosphere of argon. To the mixture was added the above-mentioned zinc reagent. The mixture was stirred at room temperature for 30 minutes. To the mixture was added a saturated aqueous solution of ammonium chloride. The mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride subsequently, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel to give methyl 2-(2-naphthylmethyl)-4-phenoxymethylbenzoate. To a suspension of lithium alminium hydride (206 mg) in (2 ml) was added dropwise a solution of the above-mentioned methyl 2-(2-naphthylmethyl)-4-phenoxymethylbenzoate in diethyl ether (3 ml)-tetrahydrofuran (3 ml) under an atmosphere of argon. The mixture was stirred for 30 minutes. To the mixture was added 1N hydrochloric acid. The mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride subsequently, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel to give the title compound (974 mg) having the following physical data.

reactant | lithium | [Li] | Li
reactant | hydride | 206 mg | [H-]
reactant | methyl 2-(2-naphthylmethyl)-4-phenoxymethylbenzoate | C1=C(C=CC2=CC=CC=C12)CC1=C(C(=O)OC)C=CC(=C1)COC1=CC=CC=C1 | C26H22O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-(naphthalen-2-ylmethyl)-4-phenoxymethylbenzylalcohol | 974 mg | C1=C(C=CC2=CC=CC=C12)CC1=C(CO)C=CC(=C1)COC1=CC=CC=C1 | C25H22O2
